US07288541B2
To a solution of 90 mg (0.21 mmol) of N-[(2S,3S)-3-amino-2-hydroxyheptyl]-2-pyridinesulfonamide hydrochloride & N-[(2R,3S)-3-amino-2-hydroxyheptyl]-2-pyridinesulfonamide hydrochloride and 83 mg (0.63 mmol) of N,N-diisopropylethylamine in 2 mL N,N-dimethylformamide was added 102 mg (0.21 mmol) of (1S)-2,2-dimethyl-1-({3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl 4-nitrophenyl carbonate. The reaction mixture was stirred at room temperature for 48 h. It was diluted with ethyl acetate, washed with one portion of 1M sodium hydroxide and with 1 portion of brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with ethyl acetate:hexanes (3:1) to afford 90 mg (68%) of (1S)-2,2-dimethyl-1-({3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl (1S)-1-{(1S)-1-hydroxy-2-[(2-pyridinylsulfonyl)amino]ethyl}pentylcarbamate & (1S)-2,2-dimethyl-1-({3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl (1S)-1-{(1R)-1-hydroxy-2-[(2-pyridinylsulfonyl)amino]ethyl}pentylcarbamate. 1H-NMR (300 MHz, DMSO-d6): δ 8.70 (d, J=4 Hz, 1H), 8.11–7.45 (m, 10H), 6.76 (s, 1H), 6.54 (d, J=9 Hz, 1H), 4.90–4.76 (m, 2H), 4.46 (d, J=13 Hz, 1H), 4.16 (m, 1H), 3.05 (m, 1H), 1.27 (m, 1H), 1.05–0.86 (m, 14H), 0.68 (m, 3H); ES-LCMS m/z 648 (M+Na).

reactant | N-[(2S,3S)-3-amino-2-hydroxyheptyl]-2-pyridinesulfonamide hydrochloride | 0.21 mmol, 90 mg | Cl.N[C@H]([C@H](CNS(=O)(=O)C1=NC=CC=C1)O)CCCC
reactant | N-[(2R,3S)-3-amino-2-hydroxyheptyl]-2-pyridinesulfonamide hydrochloride | Cl.N[C@H]([C@@H](CNS(=O)(=O)C1=NC=CC=C1)O)CCCC
reactant | N,N-diisopropylethylamine | 0.63 mmol, 83 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (1S)-2,2-dimethyl-1-({3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl 4-nitrophenyl carbonate | 0.21 mmol, 102 mg | C(O[C@@H](C(C)(C)C)CN1N=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C23H22F3N3O5
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1S)-2,2-dimethyl-1-({3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl (1S)-1-{(1S)-1-hydroxy-2-[(2-pyridinylsulfonyl)amino]ethyl}pentylcarbamate | 90 mg, 68% | O[C@@H](CNS(=O)(=O)C1=NC=CC=C1)[C@H](CCCC)NC(O[C@@H](C(C)(C)C)CN1N=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C29H38F3N5O5S
